US05744480
A. 2-(2,2,2-Trifluoroethoxy)benzaldehyde
Under a nitrogen atmosphere in a round-bottom flask equipped with a reflux condenser were placed 0.2 g (1 mmol) of 2-(2,2,2-trifluoroethoxy)benzonitrile (J. Org. Chem., 377 (1983)) and 5 mLof formic acid. To this solution was added ca. 0.2 g of Raney nickel, and the mixture was heated at reflux for 90 minutes. The mixture was filtered through diatomaceous earth, and the filter cake was rinsed with water and chloroform (CHCl3). The layers were separated, and the aqueous phase was extracted with three portions of chloroform. The combined organic fractions were washed with saturated aqueous sodium bicarbonate and water,dried over sodium sulfate (Na2SO4) and concentrated (rotary evaporator) to obtain 176 mg of the title compound as a yellow solid, m.p.33°-34° C.

reactant | 2-(2,2,2-trifluoroethoxy)benzonitrile | 1 mmol, 0.2 g | FC(COC1=C(C#N)C=CC=C1)(F)F | C9H6F3NO
reactant | formic acid | C(=O)O | CH2O2
catalyst | Raney nickel | ca. 0.2 g | [Ni] | Ni
product | 2-(2,2,2-Trifluoroethoxy)benzaldehyde | 176 mg | FC(COC1=C(C=O)C=CC=C1)(F)F | C9H7F3O2
